* Generated by Inverse Design Optimizer
* Target: Gain=45.5, PM=65.0, UGF=1000000.0
* Optimized Parameters: a=5.995501e-06, b=2.997632e-04, c=5.200086e-06, d=8.835983e-05
* Predicted: Gain=55.4990, PM=60.7754, UGF=1.3228e+02
* Max Error: 99.9868%
*
************************************************************************
* auCdl Netlist:
* 
* Library Name:  2stageopamp
* Top Cell Name: opamptwostage
* View Name:     schematic
* Netlisted on:  Feb 12 12:40:18 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: 2stageopamp
* Cell Name:    opamptwostage
* View Name:    schematic
************************************************************************

.SUBCKT opamptwostage GND VDD V_inn V_inp V_out
*.PININFO V_inn:I V_inp:I V_out:O GND:B VDD:B
MPM3 V_out net2 VDD VDD pmos W=8.835983e-05 L=180n M=1
MPM2 net2 net1 VDD VDD pmos W=2.997632e-04 L=180n M=1
MPM1 net1 net1 VDD VDD pmos W=2.997632e-04 L=180n M=1
MPM4 net6 net6 VDD VDD pmos W=610n L=180n M=1
MNM4 net4 net6 GND GND nmos W=5.200086e-06 L=180n M=1
MNM3 V_out net6 GND GND nmos W=5.200086e-06 L=180n M=1
MNM2 net2 V_inp net4 GND nmos W=5.995501e-06 L=180n M=1
MNM1 net1 V_inn net4 GND nmos W=5.995501e-06 L=180n M=1
MNM0 net6 net6 GND GND nmos W=5.200086e-06 L=180n M=1
MM0 V_out net5 V_out V_out pmoscap W=13.695u L=13.695u M=1
RR0 net2 net5 5K $[polyhres] $W=600n $L=8.465u
.ENDS

