* GENERATED BY INVERSE DESIGN OPTIMIZER v4
* Target: Gain=20.0000  PM=85.0000  UGF=15.0000
* Optimised: Gain=20.1297(0.649%)  PM=87.4251(2.853%)  UGF=13.6588(8.941%)
* Max Error: 8.9414%
*
************************************************************************
* auCdl Netlist:
* 
* Library Name:  2stageopamp
* Top Cell Name: opamptwostage
* View Name:     schematic
* Netlisted on:  Feb 12 12:40:18 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: 2stageopamp
* Cell Name:    opamptwostage
* View Name:    schematic
************************************************************************

.SUBCKT opamptwostage GND VDD V_inn V_inp V_out
*.PININFO V_inn:I V_inp:I V_out:O GND:B VDD:B
MPM3 V_out net2 VDD VDD pmos W=4.491229e-05 L=180n M=1
MPM2 net2 net1 VDD VDD pmos W=2.312149e-04 L=180n M=1
MPM1 net1 net1 VDD VDD pmos W=2.312149e-04 L=180n M=1
MPM4 net6 net6 VDD VDD pmos W=610n L=180n M=1
MNM4 net4 net6 GND GND nmos W=2.446455e-06 L=180n M=1
MNM3 V_out net6 GND GND nmos W=2.446455e-06 L=180n M=1
MNM2 net2 V_inp net4 GND nmos W=6.123705e-06 L=180n M=1
MNM1 net1 V_inn net4 GND nmos W=6.123705e-06 L=180n M=1
MNM0 net6 net6 GND GND nmos W=2.446455e-06 L=180n M=1
MM0 V_out net5 V_out V_out pmoscap W=13.695u L=13.695u M=1
RR0 net2 net5 5K $[polyhres] $W=600n $L=8.465u
.ENDS

